US08536197B2
(25a) Ethyl 4-bromo-5-ethyl-1H-imidazole-2-carboxylate
The same operation as in Example (1c) was performed using ethyl 5-ethyl-1H-imidazole-2-carboxylate obtained by the method described in Example (lb) (0.29 g, 1.30 mmol) and NBS (0.28 g, 1.28 mmol), to obtain 0.22 g of the title compound as a white solid (69%).

reactant | ethyl 5-ethyl-1H-imidazole-2-carboxylate | C(C)C1=CN=C(N1)C(=O)OCC | C8H12N2O2
reactant | NBS | 1.28 mmol, 0.28 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 4-bromo-5-ethyl-1H-imidazole-2-carboxylate | 0.22 g, 69% | BrC=1N=C(NC1CC)C(=O)OCC | C8H11BrN2O2
